US04994452
1,3,4a,5,6,7-Hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one
To a solution of methyl [(9-amino-1,2,3,4-tetrahydroacridin-1-yl)oxy]acetate (13.7 g) in tetrahydrofuran (200 ml) was added potassium t-butoxide (6.7 g). The reaction mixture was stirred at ambient temperature for 2.5 hrs and evaporated. The residue was stirred in dilute potassium carbonate solution/ethyl ether. The precipitate was collected and dried. A 3.5 g sample was recrystallized twice from methanol/water, passed through a column of basic alumina (5% methanol/ethyl acetate) and recrystallized from methanol to give 1.37 g (39%) of product, mp 173°-175° C.

reactant | methyl [(9-amino-1,2,3,4-tetrahydroacridin-1-yl)oxy]acetate | 13.7 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)OCC(=O)OC | C16H18N2O3
reactant | potassium t-butoxide | 6.7 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,3,4a,5,6,7-Hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 1.37 g, 39% | N1C(COC2C=3C1=C1C=CC=CC1=NC3CCC2)=O | C15H14N2O2
